** Name: SimpleTwoStageOpAmp_SimpleOpAmp113_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp113_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX3 outSourceVoltageBiasXXnXX3 nmos4 L=7e-6 W=16e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=12e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=593e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX3 outSourceVoltageBiasXXnXX3 sourceNmos sourceNmos nmos4 L=7e-6 W=36e-6
mDiodeTransistorNmos5 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos6 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=38e-6
mDiodeTransistorPmos7 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=5e-6 W=15e-6
mNormalTransistorNmos8 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=593e-6
mNormalTransistorNmos9 inputVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX3 sourceNmos sourceNmos nmos4 L=7e-6 W=35e-6
mNormalTransistorNmos10 outFirstStage outVoltageBiasXXnXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=23e-6
mNormalTransistorNmos11 sourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=7e-6 W=150e-6
mNormalTransistorNmos12 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX3 sourceNmos sourceNmos nmos4 L=7e-6 W=594e-6
mNormalTransistorNmos13 FirstStageYout1 outVoltageBiasXXnXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=23e-6
mNormalTransistorNmos14 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=8e-6 W=184e-6
mNormalTransistorNmos15 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=8e-6 W=184e-6
mNormalTransistorNmos16 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=12e-6
mNormalTransistorPmos17 out outFirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=520e-6
mNormalTransistorPmos18 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=5e-6 W=15e-6
mNormalTransistorPmos19 outInputVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=219e-6
mNormalTransistorPmos20 outVoltageBiasXXnXX2 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=300e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp113_9

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 14.9611 mW
** Area: 14522 (mu_m)^2
** Transit frequency: 23.1841 MHz
** Transit frequency with error factor: 23.1658 MHz
** Slew rate: 40.6621 V/mu_s
** Phase margin: 55.004°
** CMRR: 87 dB
** VoutMax: 4.05001 V
** VoutMin: 0.870001 V
** VcmMax: 3.78001 V
** VcmMin: 1.41001 V


** Expected Currents: 
** NormalTransistorNmos: 9.70501 muA
** NormalTransistorPmos: -55.0719 muA
** NormalTransistorPmos: -75.4319 muA
** NormalTransistorNmos: 43.8071 muA
** NormalTransistorNmos: 43.8071 muA
** DiodeTransistorPmos: -43.8079 muA
** NormalTransistorPmos: -43.8079 muA
** NormalTransistorNmos: 163.045 muA
** NormalTransistorNmos: 163.044 muA
** NormalTransistorNmos: 43.8071 muA
** NormalTransistorNmos: 43.8071 muA
** NormalTransistorNmos: 2754.36 muA
** DiodeTransistorNmos: 2754.36 muA
** NormalTransistorPmos: -2754.35 muA
** DiodeTransistorNmos: 55.0711 muA
** NormalTransistorNmos: 55.0711 muA
** DiodeTransistorNmos: 75.4311 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -9.70599 muA


** Expected Voltages: 
** ibias: 1.18801  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX0: 4.17001  V
** out: 2.5  V
** outFirstStage: 3.48901  V
** outInputVoltageBiasXXnXX1: 1.27801  V
** outSourceVoltageBiasXXnXX1: 0.639001  V
** outSourceVoltageBiasXXnXX3: 0.556001  V
** outVoltageBiasXXnXX2: 2.65001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.483001  V
** out1: 3.52801  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V
** inner: 0.639001  V


.END