** Name: SimpleTwoStageOpAmp_SimpleOpAmp11_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp11_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=7e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=10e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=461e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=42e-6
mDiodeTransistorPmos5 FirstStageYinnerOutputLoad1 FirstStageYinnerOutputLoad1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 pmos4 L=1e-6 W=229e-6
mDiodeTransistorPmos6 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=1e-6 W=344e-6
mNormalTransistorNmos7 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=30e-6
mNormalTransistorNmos8 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=461e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=13e-6
mNormalTransistorNmos10 FirstStageYinnerOutputLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=30e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=4e-6 W=196e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mNormalTransistorPmos13 outFirstStage FirstStageYinnerOutputLoad1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=229e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=257e-6
mNormalTransistorPmos15 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=129e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=1e-6 W=344e-6
Capacitor1 outFirstStage out 3.10001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp11_9

** Expected Performance Values: 
** Gain: 85 dB
** Power consumption: 14.8531 mW
** Area: 4244 (mu_m)^2
** Transit frequency: 34.3441 MHz
** Transit frequency with error factor: 34.2751 MHz
** Slew rate: 87.2629 V/mu_s
** Phase margin: 55.577°
** CMRR: 99 dB
** negPSRR: 90 dB
** posPSRR: 85 dB
** VoutMax: 4.25 V
** VoutMin: 0.920001 V
** VcmMax: 3.94001 V
** VcmMin: 1.07001 V


** Expected Currents: 
** NormalTransistorNmos: 18.4661 muA
** NormalTransistorPmos: -55.7899 muA
** DiodeTransistorPmos: -138.427 muA
** DiodeTransistorPmos: -138.428 muA
** NormalTransistorPmos: -138.429 muA
** NormalTransistorPmos: -138.428 muA
** NormalTransistorNmos: 276.858 muA
** NormalTransistorNmos: 138.43 muA
** NormalTransistorNmos: 138.43 muA
** NormalTransistorNmos: 2609.43 muA
** DiodeTransistorNmos: 2609.43 muA
** NormalTransistorPmos: -2609.42 muA
** DiodeTransistorNmos: 55.7891 muA
** NormalTransistorNmos: 55.7891 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -18.4669 muA


** Expected Voltages: 
** ibias: 0.664001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.32601  V
** outSourceVoltageBiasXXnXX1: 0.663001  V
** outVoltageBiasXXpXX0: 4.08701  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerOutputLoad1: 3.53901  V
** innerSourceLoad1: 4.28601  V
** innerTransistorStack2Load1: 4.28701  V
** sourceTransconductance: 1.68901  V
** inner: 0.663001  V


.END