** Name: SimpleTwoStageOpAmp_SimpleOpAmp2_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp2_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=4e-6 W=23e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=3e-6 W=4e-6
mNormalTransistorNmos3 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=59e-6
mNormalTransistorNmos4 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 nmos4 L=8e-6 W=124e-6
mNormalTransistorNmos5 FirstStageYout1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=4e-6 W=23e-6
mNormalTransistorPmos6 out ibias sourcePmos sourcePmos pmos4 L=3e-6 W=370e-6
mNormalTransistorPmos7 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=596e-6
mNormalTransistorPmos8 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=596e-6
mNormalTransistorPmos9 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=3e-6 W=28e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.40001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp2_1

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 5.13501 mW
** Area: 14361 (mu_m)^2
** Transit frequency: 24.1121 MHz
** Transit frequency with error factor: 24.0841 MHz
** Slew rate: 27.7368 V/mu_s
** Phase margin: 55.577°
** CMRR: 104 dB
** negPSRR: 97 dB
** posPSRR: 100 dB
** VoutMax: 4.35001 V
** VoutMin: 0.430001 V
** VcmMax: 3.60001 V
** VcmMin: 0.280001 V


** Expected Currents: 
** NormalTransistorNmos: 35.6981 muA
** NormalTransistorNmos: 35.6981 muA
** DiodeTransistorNmos: 35.6981 muA
** NormalTransistorPmos: -71.3979 muA
** NormalTransistorPmos: -35.6989 muA
** NormalTransistorPmos: -35.6989 muA
** NormalTransistorNmos: 935.7 muA
** NormalTransistorPmos: -935.699 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.78501  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.840001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 0.675001  V
** out1: 1.24501  V
** sourceTransconductance: 3.24701  V


.END