** Name: SimpleTwoStageOpAmp_SimpleOpAmp3_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp3_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=97e-6
mDiodeTransistorNmos2 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=5e-6 W=416e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=11e-6
mNormalTransistorNmos4 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=274e-6
mNormalTransistorNmos5 outFirstStage outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=3e-6 W=307e-6
mNormalTransistorNmos6 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=5e-6 W=416e-6
mNormalTransistorPmos7 out ibias sourcePmos sourcePmos pmos4 L=1e-6 W=571e-6
mNormalTransistorPmos8 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=5e-6 W=124e-6
mNormalTransistorPmos9 outVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=299e-6
mNormalTransistorPmos10 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=5e-6 W=124e-6
mNormalTransistorPmos11 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=423e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp3_1

** Expected Performance Values: 
** Gain: 88 dB
** Power consumption: 6.03901 mW
** Area: 8190 (mu_m)^2
** Transit frequency: 38.2711 MHz
** Transit frequency with error factor: 38.113 MHz
** Slew rate: 41.8675 V/mu_s
** Phase margin: 56.1499°
** CMRR: 93 dB
** negPSRR: 95 dB
** posPSRR: 220 dB
** VoutMax: 4.77001 V
** VoutMin: 0.150001 V
** VcmMax: 3.55001 V
** VcmMin: 0.160001 V


** Expected Currents: 
** NormalTransistorPmos: -275.661 muA
** DiodeTransistorNmos: 194.993 muA
** NormalTransistorNmos: 194.994 muA
** NormalTransistorNmos: 194.993 muA
** NormalTransistorPmos: -389.982 muA
** NormalTransistorPmos: -194.991 muA
** NormalTransistorPmos: -194.991 muA
** NormalTransistorNmos: 522.09 muA
** NormalTransistorPmos: -522.089 muA
** DiodeTransistorNmos: 275.662 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.21001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outVoltageBiasXXnXX1: 0.721001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 0.571001  V
** innerTransistorStack2Load1: 0.166001  V
** sourceTransconductance: 3.72401  V


.END