** Name: SimpleTwoStageOpAmp_SimpleOpAmp5_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp5_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=43e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=3e-6 W=4e-6
mNormalTransistorNmos3 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=49e-6
mNormalTransistorNmos4 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=4e-6 W=75e-6
mNormalTransistorNmos5 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=10e-6 W=130e-6
mNormalTransistorNmos6 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=10e-6 W=130e-6
mNormalTransistorNmos7 FirstStageYinnerSourceLoad1 inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=4e-6 W=75e-6
mNormalTransistorPmos8 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=3e-6 W=72e-6
mNormalTransistorPmos9 out ibias sourcePmos sourcePmos pmos4 L=3e-6 W=538e-6
mNormalTransistorPmos10 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=476e-6
mNormalTransistorPmos11 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=476e-6
mNormalTransistorPmos12 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=3e-6 W=52e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp5_1

** Expected Performance Values: 
** Gain: 84 dB
** Power consumption: 8.47901 mW
** Area: 14939 (mu_m)^2
** Transit frequency: 24.2331 MHz
** Transit frequency with error factor: 24.192 MHz
** Slew rate: 42.5084 V/mu_s
** Phase margin: 55.004°
** CMRR: 97 dB
** negPSRR: 91 dB
** posPSRR: 93 dB
** VoutMax: 4.35001 V
** VoutMin: 0.570001 V
** VcmMax: 3.51001 V
** VcmMin: -0.319999 V


** Expected Currents: 
** NormalTransistorPmos: -183.594 muA
** NormalTransistorNmos: 66.2971 muA
** NormalTransistorNmos: 66.2961 muA
** NormalTransistorNmos: 66.2971 muA
** NormalTransistorNmos: 66.2961 muA
** NormalTransistorPmos: -132.595 muA
** NormalTransistorPmos: -66.2979 muA
** NormalTransistorPmos: -66.2979 muA
** NormalTransistorNmos: 1359.6 muA
** NormalTransistorPmos: -1359.59 muA
** DiodeTransistorNmos: 183.595 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.78501  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.854001  V
** out: 2.5  V
** outFirstStage: 0.975001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 0.650001  V
** innerTransistorStack1Load1: 0.245001  V
** innerTransistorStack2Load1: 0.245001  V
** sourceTransconductance: 3.34201  V


.END