** Name: SimpleTwoStageOpAmp_SimpleOpAmp10_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp10_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=19e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=81e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=4e-6 W=49e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=6e-6 W=88e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=4e-6 W=33e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=240e-6
mNormalTransistorNmos7 out inputVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=3e-6 W=152e-6
mNormalTransistorNmos8 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=14e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=277e-6
mNormalTransistorNmos10 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=14e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=4e-6 W=77e-6
mNormalTransistorNmos12 SecondStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=600e-6
mNormalTransistorPmos13 inputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=6e-6 W=259e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=4e-6 W=331e-6
mNormalTransistorPmos15 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=4e-6 W=83e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=4e-6 W=33e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp10_8

** Expected Performance Values: 
** Gain: 91 dB
** Power consumption: 5.24101 mW
** Area: 9973 (mu_m)^2
** Transit frequency: 3.99201 MHz
** Transit frequency with error factor: 3.98728 MHz
** Slew rate: 9.18951 V/mu_s
** Phase margin: 65.3172°
** CMRR: 94 dB
** negPSRR: 98 dB
** posPSRR: 91 dB
** VoutMax: 4.54001 V
** VoutMin: 0.430001 V
** VcmMax: 4.24001 V
** VcmMin: 0.930001 V


** Expected Currents: 
** NormalTransistorNmos: 143.408 muA
** NormalTransistorNmos: 124.379 muA
** NormalTransistorPmos: -414.531 muA
** DiodeTransistorPmos: -19.8849 muA
** NormalTransistorPmos: -19.8849 muA
** NormalTransistorPmos: -19.8849 muA
** NormalTransistorNmos: 39.7691 muA
** NormalTransistorNmos: 19.8841 muA
** NormalTransistorNmos: 19.8841 muA
** NormalTransistorNmos: 316.144 muA
** NormalTransistorNmos: 316.143 muA
** NormalTransistorPmos: -316.143 muA
** DiodeTransistorNmos: 414.532 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -143.407 muA
** DiodeTransistorPmos: -124.378 muA


** Expected Voltages: 
** ibias: 0.562001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.833001  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 3.97201  V
** outVoltageBiasXXpXX0: 3.70001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack2Load1: 4.48101  V
** out1: 4.06701  V
** sourceTransconductance: 1.72701  V
** innerStageBias: 0.157001  V


.END