** Name: SimpleTwoStageOpAmp_SimpleOpAmp114_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp114_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=12e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=130e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=184e-6
mDiodeTransistorNmos4 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceTransconductance sourceTransconductance nmos4 L=9e-6 W=404e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=116e-6
mDiodeTransistorPmos6 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=6e-6 W=28e-6
mNormalTransistorNmos7 out ibias sourceNmos sourceNmos nmos4 L=3e-6 W=408e-6
mNormalTransistorNmos8 outFirstStage outVoltageBiasXXnXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=9e-6 W=25e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=461e-6
mNormalTransistorNmos10 sourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=184e-6
mNormalTransistorNmos11 FirstStageYout1 outVoltageBiasXXnXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=9e-6 W=25e-6
mNormalTransistorNmos12 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=10e-6 W=28e-6
mNormalTransistorNmos13 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=10e-6 W=28e-6
mNormalTransistorNmos14 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=130e-6
mNormalTransistorPmos15 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=263e-6
mNormalTransistorPmos16 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=6e-6 W=28e-6
mNormalTransistorPmos17 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=77e-6
mNormalTransistorPmos18 outVoltageBiasXXnXX2 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=105e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.60001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp114_7

** Expected Performance Values: 
** Gain: 96 dB
** Power consumption: 6.60801 mW
** Area: 10006 (mu_m)^2
** Transit frequency: 3.13201 MHz
** Transit frequency with error factor: 3.13122 MHz
** Slew rate: 24.2581 V/mu_s
** Phase margin: 65.3172°
** CMRR: 73 dB
** VoutMax: 4.73001 V
** VoutMin: 0.170001 V
** VcmMax: 4.44001 V
** VcmMin: 1.26001 V


** Expected Currents: 
** NormalTransistorNmos: 380.332 muA
** NormalTransistorPmos: -247.602 muA
** NormalTransistorPmos: -339.785 muA
** NormalTransistorNmos: 5.33201 muA
** NormalTransistorNmos: 5.33201 muA
** DiodeTransistorPmos: -5.33299 muA
** NormalTransistorPmos: -5.33299 muA
** NormalTransistorNmos: 350.453 muA
** DiodeTransistorNmos: 350.453 muA
** NormalTransistorNmos: 5.33301 muA
** NormalTransistorNmos: 5.33301 muA
** NormalTransistorNmos: 333.303 muA
** NormalTransistorPmos: -333.302 muA
** DiodeTransistorNmos: 247.603 muA
** NormalTransistorNmos: 247.603 muA
** DiodeTransistorNmos: 339.786 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -380.331 muA


** Expected Voltages: 
** ibias: 0.576001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 4.16901  V
** outInputVoltageBiasXXnXX1: 1.11001  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** outVoltageBiasXXnXX2: 2.65001  V
** outVoltageBiasXXpXX0: 3.48301  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** out1: 4.18201  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V
** inner: 0.555001  V


.END